Driver with Wn=7.36um, B=2

.lib '/class/ece482/gpdk045_mos' TT



.TEMP 25.0
.OPTION
+    ARTIST=2
+    INGOLD=2
+    PARHIER=LOCAL
+    PSF=2

** Library name: ECE464_45nm
** Cell name: IO_inv64
** View name: av_extracted
c1 in vss 17.7352e-18
c2 out vss 27.3873e-18
c3 vddio vss 11.2895e-18
c4 net11 vss 290.936e-18
c5 n5__net11 vss 309.074e-18
c6 n1__in vss 66.2619e-18
c7 n4__net11 vss 373.637e-18
c8 n4__in vss 50.9479e-18
c9 n3__net11 vss 58.7458e-18
c10 n3__in vss 35.2479e-18
c11 n3__vddio vss 968.689e-18
c12 n1__vddio vss 458.212e-18
c13 n6__out vss 775.691e-18
c14 n9__vddio vss 478.067e-18
c15 n2__out vss 677.392e-18
c16 n8__net11 vss 47.2305e-18
c17 n6__net11 vss 64.4027e-18
c18 n6__vddio vss 81.8596e-18
c19 n2__in vss 28.126e-18
c20 n2__net11 vss 28.4527e-18
c21 n7__net11 vss 48.5445e-18
c22 n1__out vss 102.248e-18
rk1 n3__in in 50.3e-3
rk2 n6__net11 n7__net11 12.7822
rk3 n7__net11 n8__net11 37.8129
rk4 n7__net11 n3__net11 459e-3
rk5 n1__vss n2__vss 75.7945
rk6 n2__vss n3__vss 1.5133
rk7 n3__vss n4__vss 1.5259
rk8 n4__vss n6__vss 1.0278
rk9 n6__vss n7__vss 42.8942
rk10 n6__vss vss 79.34e-3
rk11 n1__vss n2__vss 3.75
rk12 n1__vss n3__vss 3.75
rk13 n1__vss n4__vss 3.75
rk14 n5__vss n6__vss 62
rk15 out n1__out 220e-3
rk16 n1__out n3__out 205.7e-3
rk17 n3__out n4__out 794.5e-3
rk18 n4__out n5__out 1.5133
rk19 n5__out n2__out 5.2759
rk20 n1__out n7__out 949.9e-3
rk21 n7__out n8__out 1.5259
rk22 n8__out n9__out 1.5133
rk23 n9__out n6__out 62.7945
rk24 n2__out n3__out 75
rk25 n2__out n4__out 3.75
rk26 n2__out n5__out 3.75
rk27 n6__out n7__out 3.1
rk28 n6__out n8__out 3.1
rk29 n6__out n9__out 3.1
rk30 n2__vddio n4__vddio 290.9e-3
rk31 n4__vddio vddio 177.8e-3
rk32 vddio n5__vddio 152.4e-3
rk33 n5__vddio n6__vddio 17.7506
rk34 n2__vddio n7__vddio 794.5e-3
rk35 n7__vddio n8__vddio 1.5133
rk36 n8__vddio n1__vddio 4.6259
rk37 n5__vddio n10__vddio 296.4e-3
rk38 n10__vddio n11__vddio 794.5e-3
rk39 n11__vddio n12__vddio 1.5133
rk40 n12__vddio n9__vddio 4.6259
rk41 n1__vddio n2__vddio 62
rk42 n3__vddio n4__vddio 75
rk43 n3__vddio n5__vddio 75
rk44 n1__vddio n7__vddio 3.1
rk45 n1__vddio n8__vddio 3.1
rk46 n9__vddio n10__vddio 62
rk47 n9__vddio n11__vddio 3.1
rk48 n9__vddio n12__vddio 3.1
rl1 n1__in n2__in 35.2737
rl2 n2__in n3__in 50.633
rl3 n2__in n4__in 24.8571
rl4 net11 n2__net11 55.3817
rl5 n2__net11 n3__net11 55.6411
rl6 n2__net11 n4__net11 24.6756
rl7 n2__net11 n5__net11 24.6756
m3 n6__net11 n1__in n6__vddio n3__vddio g45p2svt L=150e-9 W=640e-9 AD=96e-15 AS=96e-15 PD=1.58e-6 PS=1.58e-6 NRD=468.75e-3 NRS=468.75e-3 M=1
m0_1__rcx n1__vddio net11 n6__out n3__vddio g45p2svt L=150e-9 W=7.36e-6 AD=1.104e-12 AS=1.104e-12 PD=15.07e-6 PS=15.07e-6 NRD=468.75e-3 NRS=468.75e-3 M=1
m0 n6__out n5__net11 n9__vddio n3__vddio g45p2svt L=150e-9 W=7.36e-6 AD=1.472e-12 AS=1.472e-12 PD=15.07e-6 PS=15.07e-6 NRD=468.75e-3 NRS=468.75e-3 M=1
m2 n8__net11 n4__in n7__vss n5__vss g45n2svt L=150e-9 W=320e-9 AD=48e-15 AS=48e-15 PD=940e-9 PS=940e-9 NRD=468.75e-3 NRS=468.75e-3 M=1
m1 n2__out n4__net11 n1__vss n5__vss g45n2svt L=150e-9 W=7.36e-6 AD=1.104e-12 AS=1.104e-12 PD=15.02e-6 PS=15.02e-6 NRD=468.75e-3 NRS=468.75e-3 M=1



Vvddio VDDIO 0 1.8
Vvss VSS 0 0


* Transmission Line Setup

tl OUT 0 load 0 Z0=100 TD=350e-12 IC=0
cpkg OUT 0 300e-15
cl load 0 2e-12



vdrv IN 0 pulse(0 1.8 625p 1p 1p 623p 10n)



.tran 1p 40n
.option post
.end
